datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C(/[CH:10]=[CH:11]/[N:12]2CCCC2)C=C1.FC1=CC(F)=CC(C2C3[CH:20](C4=CC(F)=CC(F)=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=C1>>FC1=CC(F)=CC(C2C([CH:20](C3=CC(F)=CC(F)=C3)[CH:10](C3=CC=CC=C3)[CH:11]=[N+:12]3CCCC3)[Pd-2:21]2([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=C1 10,11=10,20;12=11,12;20,21=21"
"C[CH:20]1C[Fe-2:21]12345(C#[O+])(C#[O+])C1C2C3C4C15.FC(F)(F)[C:64]1=[CH:63][CH:62]=[C:61]([O-:10])[CH:72]=[CH:73]1>>C[CH:20](C[Fe-3:21]1234(C#[O+])(C#[O+])C5C1C2C3C54)[O:10][C:61]1=[CH:62][CH:63]=[C:64](C(F)(F)F)[CH:73]=[CH:72]1 10=20;20,21=21"
"CC[O:33][C:31]([C:20]1=[C:21](/[N:22]=[N:23]/[C:24](N)=[O:25])CCC1)=[O:32].[O-:10][C:61]#[N:62]>>CC[O:33][C:31]([C:20]1([O:10][C:61]#[N:62])CCC[C:21]1=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C[S+:61](C)/[CH:10]=[C:11](/C1=CC=C(Br)C=C1)[O-:12].FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[S+:61](C)[CH:10]([C:11](C1=CC=C(Br)C=C1)=[O:12])[C:20]([C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10,11=10,20;12=11,12"
CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1.C[N:10](C)C>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N+:10](C)(C)C)[C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1 10=20
"CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=CC=C2)=[C:11]([O-:12])[O:82]1.O=[N+]([O-])[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=CC=C2)([CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)[C:11](=[O:12])[O:82]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:72][C:61]([S-:10])=[S:62].C[N+:23]1=[CH:22]/[C:21](=[CH:20]/[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)C2=C1C=CC=C2>>CC[O:72][C:61]([S:10][CH:20]([C:21]1=[CH:22][N:23](C)C2=C1C=CC=C2)[C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=CC=C2)=[S:62] 10=20;20,21=21,22;22,23=23"
"C[O:49][C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1.[H:10][Ge:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1)[C:82]1=[CH:83][CH:84]=[CH:85][CH:86]=[CH:87]1>>C[O:49][C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1.[Ge+:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1)[C:82]1=[CH:83][CH:84]=[CH:85][CH:86]=[CH:87]1 10,11=10,20"
C[C:61]1=[N:62][C:72](C)=[CH:71][N-:10]1.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[C:61]1=[N:62][C:72](C)=[CH:71][N:10]1[C:20]([C:31]1=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10=20
"CCN1CC[N:14]2CCN(CC)[C:62]3=[CH:61][N:10]=[CH:11][C:12]1=[C:13]23.C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CCN1CC[N+:14]2=[C:13]3[C:12]1=[CH:11][N:10]([CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[CH:61]=[C:62]3N(CC)CC2 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C[N:12]1[C:11](=[CH2:10])[N:61](C)[C:64]2=[C:63]1C=CC=C2.Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33]>>C[N+:12]1=[C:11]([CH2:10][C:20]2(Cl)[C:21](Cl)=[C:22]([O-:23])[C:30](Cl)=[C:31](Cl)[C:32]2=[O:33])[N:61](C)[C:64]2=[C:63]1C=CC=C2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C(C(C2=CC=CC=C2)[C@@H]2CC[N:12]3C4=C(C=CC=C4)[S:62][C:11]3=[N:10]2)C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2[C@H](C(C3=CC=CC=C3)C3=CC=CC=C3)CC[N+:12]3=[C:11]2[S:62]C2=C3C=CC=C2)[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1C[CH:10]=[CH:11][CH:62]=[CH:63]C1.CN(C)[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2CCC[CH:63]=[CH:62][CH+:11]2)[C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[CH:36]=[CH:35]1 10,11=10,20;20,21=21,22;22,23=23"
